US06664271B1
(S)-ethyl nipecotate (309.1 mg; 1.97 mmol) was dissolved in anhydrous methanol (8 ml) and commercially available benzaldehyde (200 μl; 1.97 mmol) was added, followed by sodium cyanoborohydride (234 mg; 3.72 mmol). This mixture was allowed to stir at ambient temperature for 23 hours and was then diluted with dichloromethane. The dichloromethane was washed with water, then washed with saturated sodium chloride solution, dried with anhydrous potassium carbonate, and evaporated under reduced pressure at ambient temperature. The crude product was purified by chromatography on silica eluting with 50% ethyl acetate/50% hexane, giving (S)-ethyl 1-benzyl-3-piperidinecarboxylate (192.7 mg) as a colorless oil. MS mi/z (positive ion) 248 (MH+; 100).

reactant | (S)-ethyl nipecotate | 1.97 mmol, 309.1 mg | N1C[C@@H](C(=O)OCC)CCC1 | C8H15NO2
reactant | benzaldehyde | 1.97 mmol, 200 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 3.72 mmol, 234 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-ethyl 1-benzyl-3-piperidinecarboxylate | 192.7 mg | C(C1=CC=CC=C1)N1C[C@H](CCC1)C(=O)OCC | C15H21NO2
